US05610144
The operation is carried out in a fashion similar to that described in Example 41, but starting from 1.6 g of 2-trimethylsilylethyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoate in 5.3 cm3 of 1M tetrabutylammonium fluoride solution. The crude product is purified by chromatography on silica [eluent: ethyl acetate/methanol (90/10 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. After vigorous stirring in diisopropyl ether, 0.22 g of (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoic acid is thus obtained in the form of an amorphous solid ([α]D20 =+79.0°±2.0° (C=0.43%; CHCl3)) [proton NMR (250 MHz, DMSO D6, δ in ppm), 2 rotamers at room temperature, characteristic chemical shifts at 25° C.: 1.5 (bs, 9H, (CH3)3); 7.1 to 7.6 (m, 7H, aromatic); 8.0 (bs, 1H, N--C6H4 -- in position 2). Infrared spectrum (KBr), characteristic bands in cm-1 : 3380, 2975, 2930, 2600, 1715, 1695, 1650, 1610, 1590, 1560, 1490, 1450, 1370, 1240, 1150, 780, 755, 685].

reactant | 2-trimethylsilylethyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoate | 1.6 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=CC(=CC=C1)F)C(CNC(NC=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1)=O)=O | C29H38FN3O6SSi
solvent | tetrabutylammonium fluoride | 1M, 5.3 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoic acid | 0.22 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=CC(=CC=C1)F)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C24H26FN3O6S
